US07893267B2
To a stirring solution of 4.48 g (20 mmol) of 2-chloro-5-trifluoromethyl-benzoic acid suspended in 40 mL of conc. H2SO4 at −20° C. was added dropwise a cold solution of 1.05 eq of potassium nitrate dissolved in 12 mL of sulfuric acid. The reaction mixture was stirred −20° C. for 15 min then warmed up to r.t. overnight. The mixture was poured into a beaker containing ice. The resulting solid was collected, washed with cold water and dried to give 4.8 g (90%) of 2-chloro-3-nitro-5-trifluoromethyl-benzoic acid as a solid. LCMS: 270 (M+1)+.

reactant | 2-chloro-5-trifluoromethyl-benzoic acid | 20 mmol, 4.48 g | ClC1=C(C(=O)O)C=C(C=C1)C(F)(F)F | C8H4ClF3O2
reactant | potassium nitrate | 1.05 eq | [N+](=O)([O-])[O-].[K+]
solvent | H2SO4 | 40 mL | OS(=O)(=O)O | H2O4S
solvent | sulfuric acid | 12 mL | S(O)(O)(=O)=O | H2O4S
product | 2-chloro-3-nitro-5-trifluoromethyl-benzoic acid | 4.8 g, 90% | ClC1=C(C(=O)O)C=C(C=C1[N+](=O)[O-])C(F)(F)F | C8H3ClF3NO4
